* NGSPICE file created from cdec.ext - technology: sky130A

.subckt sky130_fd_pr__cap_mim_m3_1_7BWDBD C2_0 C1_0 C2_1 C1_1
X0 C1_1 C2_1 sky130_fd_pr__cap_mim_m3_1 l=20 w=25
X1 C1_0 C2_0 sky130_fd_pr__cap_mim_m3_1 l=20 w=25
.ends


* Top level circuit cdec

XX0 X0/C2_0 X0/C1_0 X0/C2_1 X0/C1_1 sky130_fd_pr__cap_mim_m3_1_7BWDBD
.end

