* NGSPICE file created from cflt.ext - technology: sky130A

.subckt sky130_fd_pr__cap_mim_m3_1_JS2Y8Z C2 C1
X0 C1 C2 sky130_fd_pr__cap_mim_m3_1 l=22.2 w=22.2
.ends


* Top level circuit cflt

XX0 X0/C2 X0/C1 sky130_fd_pr__cap_mim_m3_1_JS2Y8Z
.end

