* NGSPICE file created from riso.ext - technology: sky130A

.subckt sky130_fd_pr__res_high_po_0p35_6H9DZ2 B R1 R2
X0 R2 R1 B sky130_fd_pr__res_high_po_0p35 l=77.67
.ends

.subckt riso
XX0 VSUBS X0/R1 X0/R2 sky130_fd_pr__res_high_po_0p35_6H9DZ2
.ends

