* NGSPICE file created from roff.ext - technology: sky130A

.subckt sky130_fd_pr__res_high_po_0p35_ZRBJ5W B R1 R2
X0 R2 R1 B sky130_fd_pr__res_high_po_0p35 l=123.03
.ends

.subckt roff
XX0 VSUBS X0/R1 X0/R2 sky130_fd_pr__res_high_po_0p35_ZRBJ5W
.ends

