* NGSPICE file created from sd_top.ext - technology: sky130A

.subckt sd_top UA0 UO0 UO1 CLK UA2 UA3 UA4 VDPWR UA1 VGND VAPWR
X0 buf_layout_2/IN VAPWR VGND sky130_fd_pr__res_high_po_1p41 l=824.88
X1 dff_layout_0/si dff_layout_0/CLK dff_layout_0/mb VGND sky130_fd_pr__nfet_g5v0d10v5 ad=1.45 pd=10.58 as=1.45 ps=10.58 w=5 l=0.5
X2 dff_layout_0/si dff_layout_0/clkb dff_layout_0/mb VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=1.45 pd=10.58 as=1.45 ps=10.58 w=5 l=0.5
X3 dff_layout_0/mi dff_layout_0/clkb dff_layout_0/D VGND sky130_fd_pr__nfet_g5v0d10v5 ad=2.9 pd=21.16 as=2.9 ps=21.16 w=5 l=0.5
X4 dff_layout_0/mi dff_layout_0/CLK dff_layout_0/D VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=2.9 pd=21.16 as=4.35 ps=31.74 w=5 l=0.5
X5 VGND dff_layout_0/QB dff_layout_0/sfb VGND sky130_fd_pr__nfet_g5v0d10v5 ad=149.35001 pd=1.08974k as=2.9 ps=21.16 w=5 l=0.5
X6 VGND dff_layout_0/si dff_layout_0/QB VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0 pd=0 as=1.45 ps=10.58 w=5 l=0.5
X7 VAPWR dff_layout_0/QB dff_layout_0/sfb VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=326.25 pd=2.3805k as=2.9 ps=21.16 w=5 l=0.5
X8 VAPWR dff_layout_0/si dff_layout_0/QB VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=0 pd=0 as=1.45 ps=10.58 w=5 l=0.5
X9 VGND dff_layout_0/QB dff_layout_0/Q VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0 pd=0 as=1.45 ps=10.58 w=5 l=0.5
X10 VGND dff_layout_0/CLK dff_layout_0/clkb VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0 pd=0 as=1.45 ps=10.58 w=5 l=0.5
X11 VAPWR dff_layout_0/QB dff_layout_0/Q VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=0 pd=0 as=1.45 ps=10.58 w=5 l=0.5
X12 VAPWR dff_layout_0/CLK dff_layout_0/clkb VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=0 pd=0 as=1.45 ps=10.58 w=5 l=0.5
X13 dff_layout_0/si dff_layout_0/clkb dff_layout_0/sfb VGND sky130_fd_pr__nfet_g5v0d10v5 ad=2.9 pd=21.16 as=0 ps=0 w=5 l=0.5
X14 dff_layout_0/si dff_layout_0/CLK dff_layout_0/sfb VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=2.9 pd=21.16 as=0 ps=0 w=5 l=0.5
X15 VGND dff_layout_0/mb dff_layout_0/mfb VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0 pd=0 as=2.9 ps=21.16 w=5 l=0.5
X16 VGND dff_layout_0/mi dff_layout_0/mb VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0 pd=0 as=2.9 ps=21.16 w=5 l=0.5
X17 VAPWR dff_layout_0/mb dff_layout_0/mfb VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=0 pd=0 as=2.9 ps=21.16 w=5 l=0.5
X18 VAPWR dff_layout_0/mi dff_layout_0/mb VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=0 pd=0 as=2.9 ps=21.16 w=5 l=0.5
X19 dff_layout_0/mi dff_layout_0/CLK dff_layout_0/mfb VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0 pd=0 as=0 ps=0 w=5 l=0.5
X20 dff_layout_0/mi dff_layout_0/clkb dff_layout_0/mfb VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=0 pd=0 as=0 ps=0 w=5 l=0.5
X21 VAPWR comp_layout_0/n1b dff_layout_0/D VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=0 pd=0 as=0 ps=0 w=5 l=0.5
X22 comp_layout_0/di1 UA1 comp_layout_0/tail VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=1.45 pd=10.58 as=0.725 ps=5.29 w=5 l=0.5 M=2
X23 VAPWR comp_layout_0/Q dff_layout_0/D VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=0 pd=0 as=0 ps=0 w=5 l=0.5
X24 comp_layout_0/di1 comp_layout_0/on2 comp_layout_0/on1 VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=4.35 pd=31.74 as=1.45 ps=10.58 w=5 l=0.5
X25 comp_layout_0/di2 ota_layout_0/INP comp_layout_0/tail VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=4.35 pd=31.74 as=5.8 ps=42.32 w=5 l=0.5 M=2
X26 comp_layout_0/di2 comp_layout_0/on1 comp_layout_0/on2 VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=0 pd=0 as=1.45 ps=10.58 w=5 l=0.5
X27 comp_layout_0/sb comp_layout_0/n1b dff_layout_0/D VGND sky130_fd_pr__nfet_g5v0d10v5 ad=2.9 pd=21.16 as=0 ps=0 w=5 l=0.5
X28 VGND comp_layout_0/Q comp_layout_0/sb VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0 pd=0 as=0 ps=0 w=5 l=0.5
X29 VGND comp_layout_0/on2 comp_layout_0/on1 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0 pd=0 as=2.9 ps=21.16 w=5 l=0.5
X30 VGND comp_layout_0/on1 comp_layout_0/on2 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0 pd=0 as=2.9 ps=21.16 w=5 l=0.5
X31 VAPWR comp_layout_0/n2b comp_layout_0/Q VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=0 pd=0 as=2.9 ps=21.16 w=5 l=0.5
X32 VAPWR dff_layout_0/D comp_layout_0/Q VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=0 pd=0 as=0 ps=0 w=5 l=0.5
X33 VGND dff_layout_0/D comp_layout_0/sq VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0 pd=0 as=2.9 ps=21.16 w=5 l=0.5
X34 comp_layout_0/sq comp_layout_0/n2b comp_layout_0/Q VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0 pd=0 as=1.45 ps=10.58 w=5 l=0.5
X35 VGND comp_layout_0/CLK comp_layout_0/di1 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0 pd=0 as=1.45 ps=10.58 w=5 l=0.5
X36 VGND comp_layout_0/CLK comp_layout_0/di2 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0 pd=0 as=1.45 ps=10.58 w=5 l=0.5
X37 VGND comp_layout_0/CLK comp_layout_0/on1 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0 pd=0 as=0 ps=0 w=5 l=0.5
X38 VGND comp_layout_0/CLK comp_layout_0/on2 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0 pd=0 as=0 ps=0 w=5 l=0.5
X39 VGND comp_layout_0/on2 comp_layout_0/n2b VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0 pd=0 as=1.45 ps=10.58 w=5 l=0.5
X40 VAPWR comp_layout_0/on2 comp_layout_0/n2b VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=0 pd=0 as=1.45 ps=10.58 w=5 l=0.5
X41 VGND comp_layout_0/on1 comp_layout_0/n1b VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0 pd=0 as=1.45 ps=10.58 w=5 l=0.5
X42 VAPWR comp_layout_0/on1 comp_layout_0/n1b VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=0 pd=0 as=1.45 ps=10.58 w=5 l=0.5
X43 comp_layout_0/tail comp_layout_0/CLK VAPWR VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=0 pd=0 as=0 ps=0 w=5 l=0.5 M=2
X44 VAPWR ota_layout_0/dio ota_layout_0/pc2 VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=0.725 pd=5.29 as=1.45 ps=10.58 w=5 l=0.7 M=12
X45 ota_layout_0/tail ota_layout_0/IREFP VAPWR VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=0.725 pd=5.29 as=0.725 ps=5.29 w=5 l=1 M=76
X46 ota_layout_0/fn1 ota_layout_0/INP ota_layout_0/tail ota_layout_0/tail sky130_fd_pr__pfet_g5v0d10v5 ad=0.725 pd=5.29 as=0.725 ps=5.29 w=5 l=0.7 M=50
X47 ota_layout_0/fn2 ota_layout_0/INM ota_layout_0/tail ota_layout_0/tail sky130_fd_pr__pfet_g5v0d10v5 ad=37.7 pd=275.07999 as=129.05 ps=941.62 w=5 l=0.7 M=50
X48 VGND ota_layout_0/IREFN ota_layout_0/fn2 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.725 pd=5.29 as=0.725 ps=5.29 w=5 l=1.2 M=24
X49 VGND ota_layout_0/IREFN ota_layout_0/fn1 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0 pd=0 as=36.25 ps=264.5 w=5 l=1.2 M=24
X50 ota_layout_0/dio ota_layout_0/VBNC ota_layout_0/fn1 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.725 pd=5.29 as=0.725 ps=5.29 w=5 l=1 M=24
X51 UA1 ota_layout_0/VBNC ota_layout_0/fn2 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=18.85 pd=137.53999 as=36.25 ps=264.5 w=5 l=1 M=24
X52 ota_layout_0/pc1 ota_layout_0/VBPC ota_layout_0/dio VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=18.85 pd=137.53999 as=10.15 ps=74.06 w=5 l=0.7 M=12
X53 VGND ota_layout_0/IREFN ota_layout_0/IREFN VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0 pd=0 as=18.85 ps=137.53999 w=5 l=1.2 M=24
X54 ota_layout_0/IREFP ota_layout_0/IREFP VAPWR VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=56.55 pd=412.62 as=0 ps=0 w=5 l=1 M=76
X55 ota_layout_0/pc2 ota_layout_0/VBPC UA1 VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=18.85 pd=137.53999 as=10.15 ps=74.06 w=5 l=0.7 M=12
X56 VAPWR ota_layout_0/dio ota_layout_0/pc1 VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=0 pd=0 as=0 ps=0 w=5 l=0.7 M=12
X57 UA1 ota_layout_0/INM sky130_fd_pr__cap_mim_m3_1 l=20 w=25
X58 UA1 ota_layout_0/INM sky130_fd_pr__cap_mim_m3_1 l=20 w=25
X59 buf_layout_1/IN buf_layout_2/IN VGND sky130_fd_pr__res_high_po_1p41 l=216.23
X60 VGND buf_layout_0/IN VGND sky130_fd_pr__res_high_po_1p41 l=172.78
X61 ota_layout_0/VBNC VGND sky130_fd_pr__cap_mim_m3_1 l=22.2 w=22.2
X62 ota_layout_0/VBPC VGND sky130_fd_pr__cap_mim_m3_1 l=22.2 w=22.2
X63 buf_layout_0/IN buf_layout_1/IN VGND sky130_fd_pr__res_high_po_1p41 l=216.23
X64 ota_layout_0/INM UA0 VGND sky130_fd_pr__res_high_po_0p35 l=102.57
X65 buf_layout_0/tail buf_layout_0/IN buf_layout_0/o1 VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=0.725 pd=5.29 as=1.45 ps=10.58 w=5 l=0.5 M=12
X66 buf_layout_0/tail buf_layout_0/OUT buf_layout_0/OUT VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=66.7 pd=486.67999 as=10.15 ps=74.06 w=5 l=0.5 M=12
X67 buf_layout_0/o1 buf_layout_0/o1 VGND VGND sky130_fd_pr__nfet_g5v0d10v5 ad=1.45 pd=10.58 as=0.725 ps=5.29 w=5 l=1 M=6
X68 buf_layout_0/OUT buf_layout_0/o1 VGND VGND sky130_fd_pr__nfet_g5v0d10v5 ad=8.7 pd=62.9 as=0 ps=0 w=5 l=1 M=6
X69 buf_layout_0/tail ota_layout_0/IREFP VAPWR VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=0.725 pd=5.29 as=0.725 ps=5.29 w=5 l=1 M=64
X70 buf_layout_1/tail buf_layout_1/IN buf_layout_1/o1 VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=66.7 pd=486.67999 as=10.15 ps=74.06 w=5 l=0.5 M=12
X71 buf_layout_1/tail ota_layout_0/INP ota_layout_0/INP VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=0 pd=0 as=10.15 ps=74.06 w=5 l=0.5 M=12
X72 buf_layout_1/o1 buf_layout_1/o1 VGND VGND sky130_fd_pr__nfet_g5v0d10v5 ad=5.8 pd=42.32 as=0 ps=0 w=5 l=1 M=6
X73 ota_layout_0/INP buf_layout_1/o1 VGND VGND sky130_fd_pr__nfet_g5v0d10v5 ad=8.7 pd=62.9 as=0 ps=0 w=5 l=1 M=6
X74 buf_layout_1/tail ota_layout_0/IREFP VAPWR VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=0 pd=0 as=0 ps=0 w=5 l=1 M=64
X75 UA2 ota_layout_0/INM VGND sky130_fd_pr__res_high_po_0p35 l=123.03
X76 buf_layout_2/tail buf_layout_2/IN buf_layout_2/o1 VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=66.7 pd=486.67999 as=10.15 ps=74.06 w=5 l=0.5 M=12
X77 buf_layout_2/tail buf_layout_2/OUT buf_layout_2/OUT VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=0 pd=0 as=10.15 ps=74.06 w=5 l=0.5 M=12
X78 buf_layout_2/o1 buf_layout_2/o1 VGND VGND sky130_fd_pr__nfet_g5v0d10v5 ad=5.8 pd=42.32 as=0 ps=0 w=5 l=1 M=6
X79 buf_layout_2/OUT buf_layout_2/o1 VGND VGND sky130_fd_pr__nfet_g5v0d10v5 ad=8.7 pd=62.9 as=0 ps=0 w=5 l=1 M=6
X80 buf_layout_2/tail ota_layout_0/IREFP VAPWR VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=0 pd=0 as=0 ps=0 w=5 l=1 M=64
X81 comp_layout_0/CLK lvl_layout_0/n2 VGND VGND sky130_fd_pr__nfet_g5v0d10v5 ad=1.45 pd=10.58 as=0.725 ps=5.29 w=5 l=0.5 M=2
X82 VAPWR lvl_layout_0/n2 comp_layout_0/CLK VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=0.725 pd=5.29 as=1.45 ps=10.58 w=5 l=0.5 M=4
X83 dff_layout_0/CLK lvl_layout_0/n1 VGND VGND sky130_fd_pr__nfet_g5v0d10v5 ad=2.9 pd=21.16 as=0 ps=0 w=5 l=0.5 M=2
X84 VAPWR lvl_layout_0/n1 dff_layout_0/CLK VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=0 pd=0 as=4.35 ps=31.74 w=5 l=0.5 M=4
X85 lvl_layout_0/n1 lvl_layout_0/n2 VAPWR VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=2.9 pd=21.16 as=0 ps=0 w=5 l=0.5 M=2
X86 VGND CLK lvl_layout_0/nb18 VGND sky130_fd_pr__nfet_01v8 ad=1.45 pd=10.58 as=1.45 ps=10.58 w=5 l=0.35
X87 lvl_layout_0/n2 lvl_layout_0/n1 VAPWR VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=2.9 pd=21.16 as=0 ps=0 w=5 l=0.5 M=2
X88 VGND CLK lvl_layout_0/n1 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.725 pd=5.29 as=0.725 ps=5.29 w=5 l=0.5 M=8
X89 VDPWR CLK lvl_layout_0/nb18 VDPWR sky130_fd_pr__pfet_01v8 ad=2.9 pd=20.58 as=2.9 ps=20.58 w=10 l=0.35
X90 VGND lvl_layout_0/nb18 lvl_layout_0/n2 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0 pd=0 as=7.25 ps=52.9 w=5 l=0.5 M=8
X91 bias_layout_0/nb bias_layout_0/pb VAPWR VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=1.45 pd=10.58 as=0.725 ps=5.29 w=5 l=1 M=2
X92 bias_layout_0/pb bias_layout_0/pb VAPWR VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=2.9 pd=21.16 as=0 ps=0 w=5 l=1 M=2
X93 bias_layout_0/rs VGND VGND sky130_fd_pr__res_high_po_1p41 l=18.88
X94 VGND bias_layout_0/vbpc_i VGND sky130_fd_pr__res_high_po_1p41 l=105.03
X95 bias_layout_0/vbnc_i bias_layout_0/pb VAPWR VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=2.9 pd=21.16 as=0 ps=0 w=5 l=1 M=2
X96 VGND bias_layout_0/vbnc_i VGND sky130_fd_pr__res_high_po_1p41 l=314.01001
X97 bias_layout_0/vbpc_i bias_layout_0/pb VAPWR VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=2.9 pd=21.16 as=0 ps=0 w=5 l=1 M=2
X98 bias_layout_0/nst VGND bias_layout_0/nb VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=1.45 pd=10.58 as=1.45 ps=10.58 w=5 l=2
X99 VAPWR VGND bias_layout_0/nst VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=1.45 pd=10.58 as=1.45 ps=10.58 w=5 l=50
X100 ota_layout_0/IREFP bias_layout_0/vbnc_i bias_layout_0/ipd VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.725 pd=5.29 as=0.725 ps=5.29 w=5 l=0.5 M=38
X101 ota_layout_0/IREFN bias_layout_0/vbpc_i bias_layout_0/ind VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=0.725 pd=5.29 as=0.725 ps=5.29 w=5 l=0.5 M=34
X102 bias_layout_0/nst bias_layout_0/vbnc_i VGND VGND sky130_fd_pr__nfet_g5v0d10v5 ad=2.9 pd=21.16 as=0 ps=0 w=5 l=0.5 M=2
X103 bias_layout_0/vbpc_i ota_layout_0/VBPC VGND sky130_fd_pr__res_high_po_1p41 l=3.24
X104 bias_layout_0/vbnc_i ota_layout_0/VBNC VGND sky130_fd_pr__res_high_po_1p41 l=3.24
X105 VAPWR bias_layout_0/pb bias_layout_0/ind VAPWR sky130_fd_pr__pfet_g5v0d10v5 ad=0.725 pd=5.29 as=0.725 ps=5.29 w=5 l=1 M=34
X106 VGND bias_layout_0/nb bias_layout_0/ipd VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.725 pd=5.29 as=0.725 ps=5.29 w=5 l=1 M=38
X107 bias_layout_0/pb bias_layout_0/nb bias_layout_0/rs VGND sky130_fd_pr__nfet_g5v0d10v5 ad=1.45 pd=10.58 as=0.725 ps=5.29 w=5 l=1 M=8
X108 bias_layout_0/nb bias_layout_0/nb VGND VGND sky130_fd_pr__nfet_g5v0d10v5 ad=1.45 pd=10.58 as=0.725 ps=5.29 w=5 l=1 M=2
X109 VGND odrv_layout_0/b UO1 VGND sky130_fd_pr__nfet_01v8 ad=3.48 pd=24.58 as=3.48 ps=24.58 w=12 l=0.35
X110 VGND odrv_layout_0/a odrv_layout_0/b VGND sky130_fd_pr__nfet_01v8 ad=11.31 pd=80.9 as=1.45 ps=10.58 w=5 l=0.35
X111 VGND dff_layout_0/QB odrv_layout_0/a VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0 pd=0 as=1.45 ps=10.58 w=5 l=0.5
X112 VDPWR odrv_layout_0/b UO1 VDPWR sky130_fd_pr__pfet_01v8 ad=6.96 pd=48.58 as=6.96 ps=48.58 w=24 l=0.35
X113 VDPWR odrv_layout_0/a odrv_layout_0/b VDPWR sky130_fd_pr__pfet_01v8 ad=22.62 pd=158.89999 as=2.9 ps=20.58 w=10 l=0.35
X114 odrv_layout_0/a dff_layout_0/QB VDPWR VDPWR sky130_fd_pr__pfet_g5v0d10v5 ad=2.9 pd=21.16 as=2.9 ps=21.16 w=5 l=0.5 M=2
X115 VGND odrv_layout_1/b UO0 VGND sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=3.48 ps=24.58 w=12 l=0.35
X116 VGND odrv_layout_1/a odrv_layout_1/b VGND sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=1.45 ps=10.58 w=5 l=0.35
X117 VGND dff_layout_0/Q odrv_layout_1/a VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0 pd=0 as=1.45 ps=10.58 w=5 l=0.5
X118 VDPWR odrv_layout_1/b UO0 VDPWR sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=6.96 ps=48.58 w=24 l=0.35
X119 VDPWR odrv_layout_1/a odrv_layout_1/b VDPWR sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=2.9 ps=20.58 w=10 l=0.35
X120 odrv_layout_1/a dff_layout_0/Q VDPWR VDPWR sky130_fd_pr__pfet_g5v0d10v5 ad=2.9 pd=21.16 as=0 ps=0 w=5 l=0.5 M=2
X121 sw_nmos_2/X0/D comp_layout_0/Q buf_layout_2/OUT VGND sky130_fd_pr__nfet_g5v0d10v5 ad=2.9 pd=20.58 as=2.9 ps=20.58 w=10 l=0.5
X122 ota_layout_0/INP dff_layout_0/CLK rdac_0/X0/R1 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0 pd=0 as=8.7 ps=61.74 w=10 l=0.5
X123 ota_layout_0/INP VGND sky130_fd_pr__cap_mim_m3_1 l=20 w=25
X124 ota_layout_0/INP VGND sky130_fd_pr__cap_mim_m3_1 l=20 w=25
X125 rdac_0/X0/R1 comp_layout_0/CLK sw_nmos_2/X0/D VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0 pd=0 as=5.8 ps=41.16 w=10 l=0.5
X126 ota_layout_0/INM rdac_0/X0/R1 VGND sky130_fd_pr__res_high_po_1p41 l=61.65
X127 buf_layout_0/OUT VGND sky130_fd_pr__cap_mim_m3_1 l=20 w=25
X128 buf_layout_0/OUT VGND sky130_fd_pr__cap_mim_m3_1 l=20 w=25
X129 sw_nmos_4/X0/D dff_layout_0/D buf_layout_0/OUT VGND sky130_fd_pr__nfet_g5v0d10v5 ad=5.8 pd=41.16 as=0 ps=0 w=10 l=0.5
X130 buf_layout_2/OUT VGND sky130_fd_pr__cap_mim_m3_1 l=20 w=25
X131 buf_layout_2/OUT VGND sky130_fd_pr__cap_mim_m3_1 l=20 w=25
X132 rdac_0/X0/R1 comp_layout_0/CLK sw_nmos_4/X0/D VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0 pd=0 as=0 ps=0 w=10 l=0.5
X133 UA3 ota_layout_0/INP VGND sky130_fd_pr__res_high_po_0p35 l=77.67
X134 UA4 buf_layout_2/OUT VGND sky130_fd_pr__res_high_po_0p35 l=77.67
.ends
